US05266700
e) 3,3'-Dimethoxy-2,2'-biquinoline
Toluene is distilled over LiAlH4 and made absolute in this manner directly before reaction. Under argon inert gas, 0.79 (2.46 mmol) of the 2-trimethylstannyl-3-methoxyquinoline described above is taken up in 5 ml of absolute toluene. 0.61 g (2.51 mmol) of 2-bromo-3-methoxyquinoline is then added to this solution. The reaction solution has a yellow color. To [sic] 20 mg (0.017 mmol) of tetrakis(triphenylphosphine) palladium(O) are then added to the reaction solution, and the reaction is monitored by thin-layer chromatography (silica gel/Et2O). The reaction solution is heated to boiling. After a reaction time of 20 hours, the tin compound and the bromine compound can still be detected. At the same time, a new band having an RF value of 0.25 and yellow fluorescence, which can be assigned to the desired product, can be detected. After a reaction time of 50 hours, another 0.010 g (0.008 mmol) of catalyst is added. After a total reaction time of 75 hours, the reaction is finally stopped. The educt can no longer be detected in the thin-layer chromatogram. The dark brown reaction solution obtained is filtered. A brownish precipitate remains and a reddish brown solution is obtained. This solution is evaporated on a rotary evaporator and taken up in diethyl ether. The reaction mixture is separated on a silica gel column using diethyl ether as the eluent. Five charges are obtained, of which the first is triphenylphosphine, the second a decomposition product of the organotin compound having a blue fluorescence, the third is 2-bromo-3-methoxyquinoline, the fourth is a small amount of a non-identified by-product and the fifth is 3,3'-dimethoxy-2,2'-biquinoline.

reactant | 2-trimethylstannyl-3-methoxyquinoline | C[Sn](C1=NC2=CC=CC=C2C=C1OC)(C)C
reactant | 2-bromo-3-methoxyquinoline | 2.51 mmol, 0.61 g | BrC1=NC2=CC=CC=C2C=C1OC | C10H8BrNO
reactant | tin | [Sn] | Sn
reactant | bromine | BrBr | Br2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(O) | 0.017 mmol, 20 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 3,3'-Dimethoxy-2,2'-biquinoline | COC=1C(=NC2=CC=CC=C2C1)C1=NC2=CC=CC=C2C=C1OC | C20H16N2O2
